US04758369
Preparation of 11-(methylthio)undecanoic acid (a precursor)
Into a 3-neck round-bottom flask fitted with a condenser and an addition funnel were added 20 g of 11-mercaptoundecanoic acid, 13 g of methyl iodide and 200 mL of ethanol. A slow flow of nitrogen through the reactor was started to exclude oxygen because mercaptans can be converted into disulfides in the presence of air and strong alkali. A solution of 7.33 g of sodium hydroxide in 14.66 g of water was added dropwise to the reaction mixture via the addition funnel. The reaction mixture was kept at room temperature overnight. Any unreacted methyl iodide, the ethanol and the water were removed using a rotovap. The residue was acidified using a mixture of concentrated hydrochloric acid and ice. After isolation the product was distilled. After a small amount of a low boiling fraction was collected, the desired product was collected at ~1 mm of Hg at 180° C. weighing 22.75 g. The crude product was distilled to yield 12.5 g of desired product representing 58.7% of theoretical based upon the weight of starting 11-mercaptoundecanoic acid.

reactant | 11-mercaptoundecanoic acid | 20 g | SCCCCCCCCCCC(=O)O | C11H22O2S
reactant | methyl iodide | 13 g | CI | CH3I
reactant | oxygen | O=O | O2
reactant | sodium hydroxide | 7.33 g | [OH-].[Na+]
solvent | water | 14.66 g | O | H2O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 11-(methylthio)undecanoic acid | 12.5 g | CSCCCCCCCCCCC(=O)O | C12H24O2S
